US04321194
reaction of 2-bromo-3-(carbethoxymethylamino)-propionitrile hydrochloride (prepared by reacting 2,3-dibromopropionitrile with glycine ethyl ester; m.p. 70°-75° C.) with triethanolamine gives ethyl 2-cyano-1-aziridineacetate; b.p.0.1 : 88°-90° C.; yield 34% of theory;

reactant | 2-bromo-3-(carbethoxymethylamino)-propionitrile hydrochloride | Cl.BrC(C#N)CNCC(=O)OCC
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | ethyl 2-cyano-1-aziridineacetate | yield 34% | C(#N)C1N(C1)CC(=O)OCC | C7H10N2O2
